US04721791
5-Amino-1-[3-bromo-5-(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide
To a hot (60° C.) solution of cyanoacetamide (546 mg) in 20 ml of ethanol, 6.47 ml of a methanolic solution of NaOH (1N) was added and the resulting mixture was stirred at 60° C. for 20 minutes. A solution of 3-bromo-5-(trichlorovinyl)benzyl azide (1.02 g) in 10 ml of ethanol was added and the reaction mixture heated at 60° C. for two hours. The pH of the solution was adjusted to ~6 with acetic acid and then concentrated to a small volume. Dilution with 50 ml of water afforded a precipitate which was washed thoroughly with water. The precipitate was recrystallized from 8 ml of ethanol to give 466 mg of pure product, m.p. 175°-177° C.

reactant | cyanoacetamide | 546 mg | C(#N)CC(=O)N | C3H4N2O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | 3-bromo-5-(trichlorovinyl)benzyl azide | 1.02 g | BrC=1C=C(CN=[N+]=[N-])C=C(C1)C(=C(Cl)Cl)Cl | C9H5BrCl3N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Amino-1-[3-bromo-5-(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide | 466 mg | NC1=C(N=NN1CC1=CC(=CC(=C1)C(=C(Cl)Cl)Cl)Br)C(=O)N | C12H9BrCl3N5O
